US07605289B2
Cyclopropyl amine (11.4 mL, 165 mmol) was added to a solution of 4-(3-pyridyl)cyclohexanone (19.2 g, 110 mmol) in DCE (360 mL) and acetic acid (12.6 mL, 220 mmol). The reaction mixture was cooled to 0° C. and NaBH(OAc)3 (46 g, 220 mmol) was added protionwise. After being stirred for 21 h at 23° C., the reaction was re-cooled to 0° C. and quenched with 1 M NaOH (200 mL). The aqueous layer was extracted with CH2Cl2 (2×200 mL) and the combined organic layers were washed with brine (300 mL), dried with MgSO4, filtered, and concentrated in vacuo. The crude mixture of cis and trans amines was purified by flash column chromatography (gradient elution, 40% EtOAc/hexanes (2.5% TEA)→70% EtOAc/hexanes (2.5% TEA)) to provide trans-N-cyclopropyl-4-(pyridine-3-yl)cyclohexylamine.

reactant | Cyclopropyl amine | 165 mmol, 11.4 mL | C1(CC1)N | C3H7N
reactant | 4-(3-pyridyl)cyclohexanone | 110 mmol, 19.2 g | N1=CC(=CC=C1)C1CCC(CC1)=O | C11H13NO
reactant | acetic acid | 220 mmol, 12.6 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 220 mmol, 46 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 360 mL | ClCCCl | C2H4Cl2
product | trans-N-cyclopropyl-4-(pyridine-3-yl)cyclohexylamine | C1(CC1)N[C@@H]1CC[C@H](CC1)C=1C=NC=CC1 | C14H20N2
